data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2347,2605,[CH3:16][O:17][C:18](=[O:19])[C:20](=[NH+:21][N-:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([O:17][CH3:16])=[O:19])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[NH:21][N:22]2[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,17.226177873186494,-32.655023119431924
2651,2940,[CH3:22][O:23][C:24](=[O:25])[C:26]#[N+:27][C-:28]([C:29](=[O:30])[O:31][CH3:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[F:1][CH:2]1[C:3]#[C:4][C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][CH2:19][CH2:20][CH2:21]1>>[F:1][CH:2]1[C:3]2=[C:4]([C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([O:23][CH3:22])=[O:25])=[N:27][C:28]2([C:29](=[O:30])[O:31][CH3:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,3.4426850126483566,-68.57938331132203
1791,1982,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[NH:17][CH3:18])[N:19]([CH3:20])[C:21]3([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27],water,298.15,31.7554365973764,-36.72250583135536
3312,3751,[CH3:10][CH-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:11]([CH3:10])[NH:12][C:13]1([C:14]#[N:15])[C:16]#[N:17],water,298.15,15.75494841685955,-7.000206407579451
3669,4189,[CH2:9]=[O+:10][C-:11]([C:12](=[O:13])[O:14][CH3:15])[C:16](=[O:17])[O:18][CH3:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:11]([C:12](=[O:13])[O:14][CH3:15])([C:16](=[O:17])[O:18][CH3:19])[O:10][CH2:9]1,water,298.15,7.43489496789583,-47.32708767504838
2535,2815,[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([O:15][CH3:16])([O:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][O:24][C:25](=[O:26])[N:27]=[O+:28][N-:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([O:15][CH3:16])([O:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[N:29]([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[O:28][N:27]2[C:25]([O:24][CH3:23])=[O:26],water,298.15,14.489884065541087,-44.32299333513132
2580,2861,[CH3:16][O:17][C:18](=[O:19])[c-:20]1[c:21](=[O:22])[o:23][c:24]([C:25]#[N:26])[n+:27]1[CH3:28].[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:24]1([C:25]#[N:26])[O:23][C:21](=[O:22])[C:20]2([C:18]([O:17][CH3:16])=[O:19])[N:27]1[CH3:28],water,298.15,16.277198317325553,-15.104355868467753
4403,5035,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[c:13]1[o:14][c:15](=[O:16])[c-:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[o+:24]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:17]1([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[C:15](=[O:16])[O:14][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[O:24]1,water,298.15,6.53719167631043,-20.13306760416945
693,753,[CH3:14][N-:15][O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:16][N:15]2[CH3:14],water,298.15,12.441661307094437,-32.86395891385417
1849,2051,[CH3:13][O:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:18]=[C:19]2[C:20]([CH3:21])=[O:22],water,298.15,18.02731256663255,-40.33043239163607
4116,4711,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:12]([C:13](=[O:14])[O:15][CH3:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:11]=[CH:10]1,water,298.15,18.432499008116068,-36.87339511888397
